US05137909
2-(1H-indol-2-yl)thio-2-phenylpropanol
To a solution (20 ml) of 2-(1H-indol-2-yl)thio-2-phenylpropionic acid (5.0 g) in anhydrous tetrahydrofuran triethylamine (1.7 g) was added. Thereafter, a solution (8 ml) of ethyl chloroformate (1.8 g) in anhydrous tetrahydrofuran was added dropwise under argon atmosphere with ice cooling. The mixture was stirred at that temperature for one hour. The deposited salt was filtered off to prepare a solution of a mixed acid anhydride in tetrahydrofuran. This mixed acid anhydride solution was added to a suspension of sodium borohydride (2.2 g) in water (30 ml) within the temperature range of from 10° to 15° C., and the mixture was stirred at that temperature for 4 hours. The reaction solution was acidified by adding concentrated hydrochloric acid, and extracted by ethyl acetate. The organic layer was washed with water, and a saturated aqueous sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (diluting solvent: methylene chloride), and further recrystallized from acetonitrile to give 2.4 g (yield: 48 %) of the product compound as a colorless powder. The melting point was 125.5°-127° C.

reactant | 2-(1H-indol-2-yl)thio-2-phenylpropionic acid | 20 ml, 5.0 g | N1C(=CC2=CC=CC=C12)SC(C(=O)O)(C)C1=CC=CC=C1 | C17H15NO2S
reactant | ethyl chloroformate | 8 ml, 1.8 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 2.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran triethylamine | 1.7 g | O1C(C(C(C1)CCN)CCN)CCN | C10H23N3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 2-(1H-indol-2-yl)thio-2-phenylpropanol | 2.4 g, yield: 48 % | N1C(=CC2=CC=CC=C12)SC(CO)(C)C1=CC=CC=C1 | C17H17NOS
